US08242055B2
1. Preparation of 4-(2-chloro-6-fluorophenyl)-5-hydroxy-2,6-dimethyl-3(2H)pyridazinone (No. 1 of Table 21)
A solution of 2.1 g (2 eq) of potassium t-butoxide in 10 ml of DMF was initially charged, and 2.8 g (9.4 mmol) of ethyl 2-{[2-(2-chloro-6-fluorophenyl)acetyl]methylhydrazono}propionate in 10 ml of DMF was slowly added dropwise at <0° C. The mixture was allowed to warm to RT and then stirred for a further 0.5 hour. The reaction solution was then poured into 100 ml of cooled 1N hydrochloric acid and extracted twice with in each case 250 ml of ethyl acetate. The combined organic phases were washed with 50 ml of saturated sodium chloride solution and then dried with sodium sulfate, concentrated under reduced pressure and purified by column chromatography (silica gel, ethyl acetate/n-heptane gradient). This gave 1.2 g of pure product.

reactant | potassium t-butoxide | 2.1 g, 2 eq | CC(C)([O-])C.[K+]
reactant | ethyl 2-{[2-(2-chloro-6-fluorophenyl)acetyl]methylhydrazono}propionate | 9.4 mmol, 2.8 g | ClC1=C(C(=CC=C1)F)CC(=O)CNN=C(C(=O)OCC)C | C14H16ClFN2O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(2-chloro-6-fluorophenyl)-5-hydroxy-2,6-dimethyl-3(2H)pyridazinone | ClC1=C(C(=CC=C1)F)C=1C(N(N=C(C1O)C)C)=O | C12H10ClFN2O2
